US09238639B2
Ethyl(6-((2,4-dichlorobenzyl)oxy)-1-benzothiophen-3-yl)acetate
To a mixture of ethyl(6-hydroxy-1-benzothiophen-3-yl)acetate (11.0 g) and DMF (200 mL) were added 2,4-dichlorobenzyl chloride (10.9 g) and K2CO3 (9.60 g). The mixture was stirred at 20° for 16 h. The mixture was diluted with EtOAc, and washed successively with water and brine. The organic layer was dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE) to give the title compound (15.5 g).

reactant | ethyl(6-hydroxy-1-benzothiophen-3-yl)acetate | 11.0 g | C(C)OC(CC1=CSC2=C1C=CC(=C2)O)=O | C12H12O3S
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
reactant | 2,4-dichlorobenzyl chloride | 10.9 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | K2CO3 | 9.60 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl(6-((2,4-dichlorobenzyl)oxy)-1-benzothiophen-3-yl)acetate | 15.5 g | C(C)OC(CC1=CSC2=C1C=CC(=C2)OCC2=C(C=C(C=C2)Cl)Cl)=O | C19H16Cl2O3S
